US05025025
A solution of 32.53 g (0.24 mole) of 3-(3-pyridyl)-propan-1-ol in 176 mL of 48% hydrobromic acid is refluxed for 24 hours. The reaction mixture is evaporated and the residue is taken up in 500 mL isopropanol and subjected to evaporation again. The evaporation procedure is repeated one more time. The resulting product is then taken up in hot isopropanol and treated with charcoal and filtered. The filtrate is cooled slowly to give 3-(3-pyridyl)propyl bromide hydrobromide, m.p. 103-105°.

reactant | 3-(3-pyridyl)-propan-1-ol | 0.24 mole, 32.53 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | hydrobromic acid | 176 mL | Br | BrH
product | 3-(3-pyridyl)propyl bromide hydrobromide | Br.N1=CC(=CC=C1)CCCBr | InChI=1S/C8H10BrN.BrH/c9-5-1-3-8-4-2-6-10-7-8;/h2,4,6-7H,1,3,5H2;1H
